US07012075B2
To tert-butyl 4-{4-[(Z)-cyano(hydroxyimino)methyl]phenyl}piperazine-1-carboxylate (1.39 g, 4.21 mmol) in EtOH (50 mL) was added an aqueous solution of pre-mixed hydroxylamine hydrochloride (440 mg, 6.32 mmol) and NaHCO3 (535 mg, 6.32 mmol) in water (15 mL) and the reaction was refluxed overnight. An additional aliquot of hydroxylamine hydrochloride (440 mg, 6.32 mmol) and NaHCO3 (535 mg, 6.32 mmol) in water (10 mL) was added and the reaction was refluxed for 2 hours. Aqueous NaOH (1.0 M, 42.1 mL) was added and the reaction was refluxed for 1 hour. An additional aliquot of NaOH (1.0 M, 21 mL) was added and the reaction was refluxed for 3 hours. After cooling to rt, the reaction mixture was poured into brine and the product extracted with EtOAc (2×), dried over Na2SO4, concentrated in vacuo, and purified by flash chromatography over silica gel (EtOAc/Hex, 4/6) to afford tert-butyl 4-[4-(4-amino-1,2,5-oxadiazol-3-yl)phenyl]piperazine-1-carboxylate.

reactant | tert-butyl 4-{4-[(Z)-cyano(hydroxyimino)methyl]phenyl}piperazine-1-carboxylate | 4.21 mmol, 1.39 g | C(#N)\C(\C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)=N/O | C17H22N4O3
reactant | hydroxylamine hydrochloride | 6.32 mmol, 440 mg | Cl.NO
reactant | NaHCO3 | 6.32 mmol, 535 mg | C(=O)(O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 6.32 mmol, 440 mg | Cl.NO
reactant | NaHCO3 | 6.32 mmol, 535 mg | C(=O)(O)[O-].[Na+]
reactant | NaOH | 1.0 M, 42.1 mL | [OH-].[Na+]
reactant | NaOH | 1.0 M, 21 mL | [OH-].[Na+]
solvent | EtOH | 50 mL | CCO | C2H6O
solvent | water | 15 mL | O | H2O
solvent | water | 10 mL | O | H2O
solvent | brine | [Cl-].[Na+].O
product | tert-butyl 4-[4-(4-amino-1,2,5-oxadiazol-3-yl)phenyl]piperazine-1-carboxylate | NC=1C(=NON1)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C17H23N5O3
